US05240925
a. Preparation of 2-(2-Methoxyphenyl)-3-(2-pyridyl)propionitrile
This intermediate (80 g.) was prepared using the procedure described in Example 14a except using 50 g. (0.339 mole) of (2-methoxyphenyl)acetonitrile, 56 g. (0.339 mole) of 2-(chloromethyl)pyridine hydrochloride, 60 g. (0.746 mole) of 50% aqueous sodium hydroxide, and 200 ml. of DMSO.

reactant | (2-methoxyphenyl)acetonitrile | 0.339 mole | COC1=C(C=CC=C1)CC#N | C9H9NO
reactant | 2-(chloromethyl)pyridine hydrochloride | 0.339 mole | Cl.ClCC1=NC=CC=C1
reactant | sodium hydroxide | 0.746 mole | [OH-].[Na+]
solvent | DMSO | CS(=O)C | C2H6OS
product | 2-(2-Methoxyphenyl)-3-(2-pyridyl)propionitrile | COC1=C(C=CC=C1)C(C#N)CC1=NC=CC=C1 | C15H14N2O
